* NGSPICE file created from transistor_evaluate_cap_0323.ext - technology: sky130A

.subckt sky130_fd_pr__nfet_01v8_HHPQSU a_25_n100# a_n33_n188# a_n185_n274# a_n83_n100#
X0 a_25_n100# a_n33_n188# a_n83_n100# a_n185_n274# sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.25
.ends

.subckt sky130_fd_pr__nfet_01v8_2B38KW a_n260_n274# a_100_n100# a_n158_n100# a_n100_n188#
X0 a_100_n100# a_n100_n188# a_n158_n100# a_n260_n274# sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
.ends

.subckt sky130_fd_pr__cap_mim_m3_1_A5W7HU m3_n386_n240# c1_n346_n200#
X0 c1_n346_n200# m3_n386_n240# sky130_fd_pr__cap_mim_m3_1 l=2 w=2
.ends

.subckt transistor_evaluate_cap_0323 VSS A1 BIAS VDD
XXM4 VDD A1 VSS VSS sky130_fd_pr__nfet_01v8_HHPQSU
XXM5 VSS VSS A1 BIAS sky130_fd_pr__nfet_01v8_2B38KW
XXC1 VSS BIAS sky130_fd_pr__cap_mim_m3_1_A5W7HU
.ends

