** sch_path: /home/isshu/tt_um_wakita_mux8onehot_pulldown_mosfet_fix/sch/mux8onehot_cap_0410.sch
.subckt mux8onehot_cap_0410 SEL0 SEL1 SEL2 VDD VSS V_gate BIAS V_drain
*.PININFO SEL0:I SEL1:I SEL2:I VDD:I VSS:I V_gate:B BIAS:I V_drain:B
x1 VDD VSS SEL0 SEL1 IN5 SEL2 IN1 IN6 IN2 IN7 IN3 IN8 IN4 V_gate mux8onehot
x2 VSS BIAS V_drain IN1 IN2 IN3 IN4 IN5 IN6 IN7 IN8 pulldown_mosfet_cap_0410
.ends

* expanding   symbol:  mux8onehot.sym # of pins=14
** sym_path: /home/isshu/tt_um_wakita_mux8onehot_pulldown_mosfet_fix/sch/mux8onehot.sym
** sch_path: /home/isshu/tt_um_wakita_mux8onehot_pulldown_mosfet_fix/sch/mux8onehot.sch
.subckt mux8onehot VDD VSS select0 select1 A5 select2 A1 A6 A2 A7 A3 A8 A4 Z
*.PININFO select0:I select1:I select2:I VDD:I VSS:I Z:B A1:B A2:B A3:B A4:B A5:B A6:B A7:B A8:B
x4 OUT_HIGH select2 nSEL2 Z VDD VSS passgate
x5 OUT_LOW nSEL2 select2 Z VDD VSS passgate
x2 A1 gno0 gpo0 OUT_LOW A2 gno1 gpo1 OUT_LOW A3 gno2 gpo2 OUT_LOW A4 gno3 gpo3 OUT_LOW VDD VSS passgatex4
x1 select0 select1 select2 gno0 gpo0 gno1 gpo1 gno2 gpo2 gno3 gpo3 nSEL2 VDD VSS passgatesCtrlManual
x3 A5 gno0 gpo0 OUT_HIGH A6 gno1 gpo1 OUT_HIGH A7 gno2 gpo2 OUT_HIGH A8 gno3 gpo3 OUT_HIGH VDD VSS passgatex4
.ends


* expanding   symbol:  pulldown_mosfet_cap_0410.sym # of pins=11
** sym_path: /home/isshu/tt_um_wakita_mux8onehot_pulldown_mosfet_fix/sch/pulldown_mosfet_cap_0410.sym
** sch_path: /home/isshu/tt_um_wakita_mux8onehot_pulldown_mosfet_fix/sch/pulldown_mosfet_cap_0410.sch
.subckt pulldown_mosfet_cap_0410 VSS BIAS VDD A1 A2 A3 A4 A5 A6 A7 A8
*.PININFO A2:I A3:I VDD:I A1:I VSS:I BIAS:I A4:I A5:I A6:I A7:I A8:I
x1 VSS A1 BIAS VDD transistor_evaluate_cap_0410
x2 VSS A2 BIAS VDD transistor_evaluate_cap_0410
x3 VSS A3 BIAS VDD transistor_evaluate_cap_0410
x4 VSS A4 BIAS VDD transistor_evaluate_cap_0410
x5 VSS A5 BIAS VDD transistor_evaluate_cap_0410
x6 VSS A6 BIAS VDD transistor_evaluate_cap_0410
x7 VSS A7 BIAS VDD transistor_evaluate_cap_0410
x8 VSS A8 BIAS VDD transistor_evaluate_cap_0410
.ends


* expanding   symbol:  passgate.sym # of pins=6
** sym_path: /home/isshu/tt_um_wakita_mux8onehot_pulldown_mosfet_fix/sch/passgate.sym
** sch_path: /home/isshu/tt_um_wakita_mux8onehot_pulldown_mosfet_fix/sch/passgate.sch
.subckt passgate A GN GP Z VDD VSS
*.PININFO GN:I VDD:I VSS:I GP:I A:B Z:B
XM1 Z GN A VSS sky130_fd_pr__nfet_01v8_lvt L=0.35 W=8 nf=1 m=2
XM3 Z GP A VDD sky130_fd_pr__pfet_01v8_lvt L=0.35 W=10 nf=1 m=2
.ends


* expanding   symbol:  passgatex4.sym # of pins=18
** sym_path: /home/isshu/tt_um_wakita_mux8onehot_pulldown_mosfet_fix/sch/passgatex4.sym
** sch_path: /home/isshu/tt_um_wakita_mux8onehot_pulldown_mosfet_fix/sch/passgatex4.sch
.subckt passgatex4 A1 GN1 GP1 Z1 A2 GN2 GP2 Z2 A3 GN3 GP3 Z3 A4 GN4 GP4 Z4 VDD VSS
*.PININFO VDD:I VSS:I GP1:I GN1:I A1:B Z1:B GP2:I GN2:I A2:B Z2:B GP3:I GN3:I A3:B Z3:B GP4:I GN4:I A4:B Z4:B
x1 A1 GN1 GP1 Z1 VDD VSS passgate
x2 A2 GN2 GP2 Z2 VDD VSS passgate
x3 A3 GN3 GP3 Z3 VDD VSS passgate
x4 A4 GN4 GP4 Z4 VDD VSS passgate
.ends


* expanding   symbol:  passgatesCtrlManual.sym # of pins=14
** sym_path: /home/isshu/tt_um_wakita_mux8onehot_pulldown_mosfet_fix/sch/passgatesCtrlManual.sym
** sch_path: /home/isshu/tt_um_wakita_mux8onehot_pulldown_mosfet_fix/sch/passgatesCtrlManual.sch
.subckt passgatesCtrlManual SEL0 SEL1 SEL2 gno0 gpo0 gno1 gpo1 gno2 gpo2 gno3 gpo3 nSEL2 VPWR VGND
*.PININFO SEL0:I SEL1:I SEL2:I gno0:O gpo0:O gno1:O gpo1:O gno2:O gpo2:O gno3:O gpo3:O nSEL2:O VPWR:I VGND:I
x1 SEL0 VGND VGND VPWR VPWR nSEL0 sky130_fd_sc_hd__inv_2
x2 SEL1 VGND VGND VPWR VPWR nSEL1 sky130_fd_sc_hd__inv_2
x7 nSEL0 nSEL1 VGND VGND VPWR VPWR gno0 sky130_fd_sc_hd__and2_1
x10 SEL1 SEL0 VGND VGND VPWR VPWR gno3 sky130_fd_sc_hd__and2_1
x11 gno0 VGND VGND VPWR VPWR gpo0 sky130_fd_sc_hd__inv_2
x12 gno1 VGND VGND VPWR VPWR gpo1 sky130_fd_sc_hd__inv_2
x13 gno2 VGND VGND VPWR VPWR gpo2 sky130_fd_sc_hd__inv_2
x14 gno3 VGND VGND VPWR VPWR gpo3 sky130_fd_sc_hd__inv_2
x15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
x16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
x17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
x8 SEL1 SEL0 VGND VGND VPWR VPWR gno1 sky130_fd_sc_hd__and2b_1
x9 SEL0 SEL1 VGND VGND VPWR VPWR gno2 sky130_fd_sc_hd__and2b_1
x18 SEL2 VGND VGND VPWR VPWR nSEL2 sky130_fd_sc_hd__inv_2
x19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
.ends


* expanding   symbol:  transistor_evaluate_cap_0410.sym # of pins=4
** sym_path: /home/isshu/tt_um_wakita_mux8onehot_pulldown_mosfet_fix/sch/transistor_evaluate_cap_0410.sym
** sch_path: /home/isshu/tt_um_wakita_mux8onehot_pulldown_mosfet_fix/sch/transistor_evaluate_cap_0410.sch
.subckt transistor_evaluate_cap_0410 VSS A1 BIAS VDD
*.PININFO VDD:I VSS:I BIAS:I A1:I
XM4 VDD A1 VSS VSS sky130_fd_pr__nfet_01v8 L=0.25 W=1 nf=1 m=1
XM5 A1 BIAS VSS VSS sky130_fd_pr__nfet_01v8 L=1 W=1 nf=1 m=1
XC1 BIAS VSS sky130_fd_pr__cap_mim_m3_1 W=2 L=2 m=1
XC2 A1 VSS sky130_fd_pr__cap_mim_m3_1 W=2 L=2 m=1
.ends

